US05726175
5 ml of 1N sodium hydroxide are added to a suspension of 0.2 g of ethyl 4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate in 15 ml of dioxane, and the reaction mixture is stirred vigorously while compressed air is bubbled for 15 hours. After addition of 10 ml of distilled water the mixture is acidified with concentrated hydrochloric acid. The precipitate form is filtered off, washed with water and dried to produce 0.13 g of 4,5-dihydro-4,10-dioxoimidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylic acid in the form of a brown powder whose melting point is higher than 260° C. (1H spectrum in DMSO, T=300K, δ in ppm (200 MHz): between 7.35 and 7.65 (3H, m, CH arom. ), 7.75 (1H, d, J=7 Hz, CH arom.), 8.38 (1H, s, CH arom.), 12.5 (1H, s, NH)).

reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
reactant | ethyl 4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate | 0.2 g | O=C1C=2N(C3=C(N1)C=1C=CC=CC1C3)C=C(N2)C(=O)OCC | C16H13N3O3
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 4,5-dihydro-4,10-dioxoimidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylic acid | 0.13 g | O=C1C=2N(C3=C(N1)C=1C=CC=CC1C3=O)C=C(N2)C(=O)O | C14H7N3O4
